US08703953B2
To a stirred solution of methyl 4-chloronicotinate (7 g, 40.8 mmol), (4-chloro-2-fluorophenyl)boronic acid (7.11 g, 40.8 mmol) and cesium carbonate (26.6 g, 82 mmol) in a mixture of dioxane (60 mL) and water (8 mL) purged with nitrogen gas for 5 min, was added Pd(PPh3)4 (2.83 g, 2.448 mmol) and the resultant mixture was heated at 85° C. for 15 h. Water (30 mL) was added and the mixture was extracted with EtOAc (1×50 mL). The organic layer was washed with water (1×30 mL) and brine (1×30 mL), dried over sodium sulfate and concentrated under reduced pressure. The residue was purified via silica gel column (30% EtOAc in hexane) to give methyl 4-(4-chloro-2-fluorophenyl)nicotinate (5 g, 18.82 mmol, 40% yield). LCMS (ESI) m/e 266.7 [(M+H)+, calcd for C13H10ClFNO2 266.0]; LCMS retention time (Method C): tR=1.73 min.

reactant | methyl 4-chloronicotinate | 40.8 mmol, 7 g | ClC1=CC=NC=C1C(=O)OC | C7H6ClNO2
reactant | (4-chloro-2-fluorophenyl)boronic acid | 40.8 mmol, 7.11 g | ClC1=CC(=C(C=C1)B(O)O)F | C6H5BClFO2
reactant | cesium carbonate | 82 mmol, 26.6 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | dioxane | 60 mL | O1CCOCC1 | C4H8O2
solvent | water | 8 mL | O | H2O
catalyst | Pd(PPh3)4 | 2.448 mmol, 2.83 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | Water | 30 mL | O | H2O
product | methyl 4-(4-chloro-2-fluorophenyl)nicotinate | 18.82 mmol, 5 g, 40% yield | ClC1=CC(=C(C=C1)C1=CC=NC=C1C(=O)OC)F | C13H9ClFNO2
